US06150352
Step 6.1B 2-{2-[6-(2-carboxyethyl)-7-chloro-3-(3 5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(3-hydroxy-propyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester (176 mg in 3.0 mL methylene chloride) was added 20 mg powdered 4Å sieves, 73 mg of 4-methylmorpholine-N-oxide, followed by 11 mg tetrapropylammonium perruthenate(VII) and the mixture stirred at room temperature. After 3 hours, the solvent was removed in vacuo and the crude aldehyde product resolvated in a mixture of tert-butanol (2 mL) and sodium phosphate (1 mL of a 1.25M solution). To this was added 1.86 mL of a 1M aqueous solution of potassium permanganate. After 30 minutes, the mixture was extracted with ethyl acetate, dried over sodium sulfate and purified by flash chromatography on silica gel (hexane:ethyl acetate, 1:1; then methylene chloride:methanol, 90:10) to give the title compound (107 mg).

reactant | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(3-hydroxy-propyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 3.0 mL, 176 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)CCCO)Cl)=O)C1=CC(=CC(=C1)C)C | C32H41ClN2O5
reactant | 4-methylmorpholine-N-oxide | 73 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
product | 2-{2-[6-(2-carboxyethyl)-7-chloro-3-(3 5-dimethylphenyl)-2-oxo-1,2-dihydroquinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid tert-butyl ester | 107 mg | C(C)(C)(C)OC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)CCC(=O)O)Cl)=O)C1=CC(=CC(=C1)C)C | C32H39ClN2O6
